US04551452
4-(Benzoyloxy)methoxy-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide
By the procedure of Example 6, piroxicam (3.33 g, 10.1 mmol) and chloromethyl benzoate (4.29 g, 25.0 mmol) were converted to chromatographed title product, 2.3 g (4.9 mmol), 48.9%) white foam which gave white crystals from isopropyl alcohol: mp 149°-150° C.; IR (KBr) 1745, 1687 cm-1 ; 1H NMR (CDCl3) delta 3.07 (s, 3H), 5.89 (s, 2H), 6.97-7.08 (m, 1H), 7.19-7.35 (m, 2H), 7.35-7.63 (m, 2H), 7.63-7.99 (m, 6H), 8.22-8.35 (m, 2H), 9.22 (br s, 1H); precise mass calcd for C23H19N3O6S m/e 465.1001, found 465.1051

reactant | piroxicam | 10.1 mmol, 3.33 g | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
reactant | chloromethyl benzoate | 25.0 mmol, 4.29 g | C(C1=CC=CC=C1)(=O)OCCl | C8H7ClO2
reactant | KBr | [K+].[Br-]
product | 4-(Benzoyloxy)methoxy-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide | C(C1=CC=CC=C1)(=O)OCOC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C23H19N3O6S
